US06531479B2
4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamine
This compound was prepared by heating equimolar amounts of 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone and guanidine in refluxing 2-methoxethanol. 1H-NMR (300 MHz, CDCl3), δ 2.67 (s, 3H, CH3), 2.68 (s, 3H, CH3), 5.14 (br, 2H, NH2), 6.83 (d, 1H, J=5.3 Hz, pyrimidinyl-H), 8.30 (d, 1H, J=5.3 Hz, pyrimidinyl-H).

reactant | 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone | CC1=C(SC(=N1)C)/C=C/C(=O)N(C)C | C10H14N2OS
reactant | guanidine | NC(=N)N | CH5N3
product | 4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamine | CC=1SC(=C(N1)C)C1=NC(=NC=C1)N | C9H10N4S
